US05194629
10 g of maleinimide (0.1 mol) and 22 g di-tertiary butyl-dicarbonate (0.1 mol) are placed in 100 ml tetrahydrofuran under argon as a protective gas. 8 ml pyridine (0.1 mol) are added to this solution; the mixture is then stirred for 24 h at room temperature. The volatile components are subsequently removed at the rotatory film evaporator (at 35°) and in the water-jet vacuum pump. 200 ml water are added to the residue and the residue is extracted by shaking three times, in each case with 100 ml methylene chloride. The combined organic phases are then washed in each case with 100 ml water, 5% sodium hydrogencarbonate solution and once again with water. After drying the organic phase with sodium sulfate, the solvent is removed. The brown residue is suspended in 100 ml hot petroleum ether (60° to 80° C.). The crystallizate that separates out when the suspension is cooled (in an ice bath) is sucked off an dried. The obtained mixture is sublimated (75°/3×0.02 torr), whereby colorless N-Boc-maleinimide is obtained; yield: 18.8 g (92.8% of the theory); Mr=197.2 g/mol; melting point: 62.5° C. The spectroscopic data (1H-NMR, 13C-NMR, IR, UV and MS) confirm the structure.

reactant | maleinimide | 0.1 mol, 10 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | di-tertiary butyl-dicarbonate | 0.1 mol, 22 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 0.1 mol, 8 ml | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Boc-maleinimide | C(=O)(OC(C)(C)C)N1C(C=CC1=O)=O | C9H11NO4
